US03982020
A mixture of 8.8 g (0.05 mole) of 2,6-dichlorobenzaldehyde, 6.8 g (0.05 mole) amidinohydrazine (amino guanidine) carbonate and 150 ml of ethanol is stirred and refluxed for 18 hours. The clear solution is cooled to room temperature and the resultant solid is filtered off to give N-(2,6-dichlorobenzylidene)-N'-amidino hydrazine; m.p. 237°-238°C with decomposition.

reactant | 2,6-dichlorobenzaldehyde | 0.05 mole, 8.8 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | amidinohydrazine (amino guanidine) carbonate | 0.05 mole, 6.8 g | C(O)(O)=O.NNC(=N)N.C(N)(=N)NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-(2,6-dichlorobenzylidene)-N'-amidino hydrazine | ClC1=C(C=NNC(N)=N)C(=CC=C1)Cl | C8H8Cl2N4
